US07772244B2
N-(1-Benzylpiperidin-4-yl)-4-fluoro-2-nitrobenzamide
An oven dried flask was charged with 4-fluoro-2-nitrobenzoic acid (7.87 g, 42.5 mmol), 1-hydroxybenzotriazole (6.32 g, 46.8 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (8.96 g, 46.7 mmol) and ethyl acetate (150 mL), followed by fast dropwise addition of triethylamine (11.8 mL, 84.7 mmol) at room temperature. The resulting white suspension was stirred for 3 h. The reaction was poured into 1:1 water/ethyl acetate (400 mL). After separation, the aqueous layer was extracted with ethyl acetate (200 mL). The combined organic layer was washed with brine (50 mL), dried over magnesium sulfate, and concentrated in vacuo to give a solid upon standing over night. Trituration and washing with ethyl acetate (2×6 mL) afforded the title compound as a light yellow solid (9.87 g, 71% yield). 1H-NMR (CDCl3, 400 MHz) δ 7.74 (dd, J=6.4, 2.0, 1H), 7.50 (dd, J=6.8, 4.0, 1H), 7.43-7.22 (m, 6H), 5.71 (d, J=6.4, 1H), 4.05-3.93 (m, 1H), 3.50 (s, 2H), 2.85-2.79 (m, 2H), 2.20-2.14 (m, 2H), 2.05-2.02 (m, 2H), 1.58-1.49 (m, 2H). Mass spec.: 358.49 (MH+).

reactant | 4-fluoro-2-nitrobenzoic acid | 42.5 mmol, 7.87 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 1-hydroxybenzotriazole | 46.8 mmol, 6.32 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 46.7 mmol, 8.96 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 84.7 mmol, 11.8 mL | C(C)N(CC)CC | C6H15N
solvent | water ethyl acetate | 400 mL | O.C(C)(=O)OCC
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-Benzylpiperidin-4-yl)-4-fluoro-2-nitrobenzamide | 9.87 g, 71% yield | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C19H20FN3O3
